US03936503
N-(Beta-cyanoethyl)phenyloctadecylamine was prepared as follows: Acrylonitrile (61.0 grams, 1.15 moles) was added slowly over 2 hours, with stirring, to a mixture of phenyloctadecylamine, prepared as described in Example II, (363.8 grams, 1.05 moles) and 17.0 grams water at 60°-70°C. The resulting mixture was then stirred at 70°-80° for 4 additional hours. The water was separated and the product dried under reduced pressure at 60°-70°C.

reactant | Acrylonitrile | 1.15 moles, 61.0 grams | C(C=C)#N | C3H3N
reactant | phenyloctadecylamine | C1(=CC=CC=C1)CCCCCCCCCCCCCCCCCCN | C24H43N
solvent | water | 17.0 grams | O | H2O
product | N-(Beta-cyanoethyl)phenyloctadecylamine | C(#N)CCNCCCCCCCCCCCCCCCCCCC1=CC=CC=C1 | C27H46N2
